US08247403B2
(1) tert-butyl 9-(5-formyl-3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (1.18 g, 3.60 mmol), 5-formylfuran-3-boronic acid pinacol ester (800 mg, 3.60 mmol), saturated aqueous sodium carbonate solution (15 ml), and tetrakis(triphenylphosphine)palladium(0) (118 mg, 0.102 mmol) in ethylene glycol dimethyl ether (20 ml) was stirred under a nitrogen atmosphere at 85° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (900 mg, 72.6%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 3.60 mmol, 1.18 g | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 5-formylfuran-3-boronic acid pinacol ester | 3.60 mmol, 800 mg | C(=O)C1=CC(=CO1)B1OC(C)(C)C(C)(C)O1 | C11H15BO4
reactant | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.102 mmol, 118 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 9-(5-formyl-3-furyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 900 mg, 72.6% | C(=O)C1=CC(=CO1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C19H21NO5
